US07544683B2
trans-(4-Isopropyl-piperazin-1-yl)-{4-[4-(5-trifluoromethyl-[1,3,4]oxadiazol-2-yl)-phenoxy]-cyclohexyl}-methanone
A mixture of 80 mg (0.21 mmol) of trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid hydrazide, 0.04 ml (0.28 mmol) of trifluoroacetic anhydride, 0.05 ml (0.36 mmol) of triethylamine, and 2 ml of dichloromethane was stirred for 22 hr at room temperature. The mixture was diluted with dichloromethane, washed with saturated NaHCO3 solution, dried over Na2SO4, and evaporated. A mixture of the residue and 2.0 ml (28 mmol) of thionyl chloride was stirred for 18 hr at room temperature. The mixture was diluted with AcOEt, washed with saturated NaHCO3 solution, water and brine, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silica eluting with dichloromethane and methanol=from 98:2 to 19:1. The combined product fractions were evaporated to dryness to yield 30 mg (31%) of the title compound. MS (m/e): 467.3 (MH+).

reactant | trans-4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-benzoic acid hydrazide | 0.21 mmol, 80 mg | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C(=O)NN)C=C1 | C21H32N4O3
reactant | trifluoroacetic anhydride | 0.28 mmol, 0.04 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 0.36 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 28 mmol, 2.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | trans-(4-Isopropyl-piperazin-1-yl)-{4-[4-(5-trifluoromethyl-[1,3,4]oxadiazol-2-yl)-phenoxy]-cyclohexyl}-methanone | 30 mg, 31% | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C=C1)C=1OC(=NN1)C(F)(F)F | C23H29F3N4O3
